US04169153
f. (3-Amino-2,4-dichloro-5-cyanophenyl)oxamic acid
A solution of 2.97 g. (0.01 mole) of ethyl(3-amino-2,4-dichloro-5-cyanophenyl)oxamate in 100 ml. of methylene chloride is placed in a separatory funnel. There is added a solution of 8 ml. of 1 N sodium hydroxide diluted to 100 ml. with water. There is added an additional 300 ml. of water to dissolve the sodium salt that forms. The phases are separated and the aqueous layer acidified with glacial acetic acid. To the solution is then added 5 ml. of concentrated hydrochloric acid. The precipitate is removed by filtration.

reactant | ethyl(3-amino-2,4-dichloro-5-cyanophenyl)oxamate | 0.01 mole | C(C)N(C(C(=O)[O-])=O)C1=C(C(=C(C(=C1)C#N)Cl)N)Cl
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | sodium | [Na] | Na
solvent | water | O | H2O
product | (3-Amino-2,4-dichloro-5-cyanophenyl)oxamic acid | NC=1C(=C(C=C(C1Cl)C#N)NC(C(=O)O)=O)Cl | C9H5Cl2N3O3
